US06362188B1
6-(Methanesulfonyloxymethyl)quinoline
6-Hydroxymethylquinoline (0.4325 g, 2.72 mmoles) (prepared by the method of: C. E. Kaslow and W. R. Clark, J. Org. Chem., 1953, 18, 55-58.) and triethylamine (1.5147 mL, 10.87 mmoles) were dissolved in anhydrous dichloromethane (16 mL) and the mixture was cooled to 0° C. Methanesulfonyl chloride (0.421 mL, 5.43 mmoles) was added and the mixture was stirred under argon at 0° C. for 1 h. Additional triethylamine (0.758 mL, 5.435 mmoles) and methanesulfonyl chloride (0.211 mL, 2.72 mmoles) were added and the reaction was allowed to proceed for a further 1 h at 0° C. The mixture was evaporated to dryness to give the title compound which was used without further purification in the next step.

reactant | 6-Hydroxymethylquinoline | 2.72 mmoles, 0.4325 g | OCC=1C=C2C=CC=NC2=CC1 | C10H9NO
reactant | triethylamine | 10.87 mmoles, 1.5147 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 5.43 mmoles, 0.421 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 5.435 mmoles, 0.758 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.72 mmoles, 0.211 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | 6-(Methanesulfonyloxymethyl)quinoline | CS(=O)(=O)OCC=1C=C2C=CC=NC2=CC1 | C11H11NO3S
